US08377923B2
Di-tert-butyl dicarbonate (15 g) and 4-dimethylaminopyridine (1.8 g) were added to a mixture of 4-fluoro-2-(trifluoromethyl)benzoic acid (10 g), THF (100 ml) and t-butanol (50 ml), followed by stirring at room temperature overnight. The reaction solution was concentrated under reduced pressure, water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain tert-butyl 4-fluoro-2-(trifluoromethyl)benzoate (9.21 g) as a colorless oily product.

reactant | Di-tert-butyl dicarbonate | 15 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-fluoro-2-(trifluoromethyl)benzoic acid | 10 g | FC1=CC(=C(C(=O)O)C=C1)C(F)(F)F | C8H4F4O2
reactant | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 1.8 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | t-butanol | 50 ml | C(C)(C)(C)O | C4H10O
product | tert-butyl 4-fluoro-2-(trifluoromethyl)benzoate | 9.21 g | FC1=CC(=C(C(=O)OC(C)(C)C)C=C1)C(F)(F)F | C12H12F4O2
